US05753679
0.275 g (0.00061 mol) of 1-benzyl-piperidin-4-yl 4-nitro-2-trifluoroacetamido-benzoate was suspended in 12 ml of 1N aqueous piperidine in an ultrasound bath for 1/2 hr. and subsequently stirred at room temperature for 20 hrs. The suspension was treated with semi-saturated aqueous sodium chloride solution and extracted with ethyl acetate. The organic phases were dried over sodium sulfate, concentrated and chromatographed on silica gel with ethyl acetate/hexane (1:2). 0.20 g (92%) of 1-benzyl-piperidin-4-yl 2-amino-4-nitro-benzoate was obtained as a yellow oil. MS: me/e=356 (C19H22N3O4 +).

reactant | 1-benzyl-piperidin-4-yl 4-nitro-2-trifluoroacetamido-benzoate | 0.00061 mol, 0.275 g | [N+](=O)([O-])C1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)NC(C(F)(F)F)=O | C21H20F3N3O5
reactant | sodium chloride | [Cl-].[Na+]
solvent | piperidine | 1N, 12 ml | N1CCCCC1 | C5H11N
product | 1-benzyl-piperidin-4-yl 2-amino-4-nitro-benzoate | 0.20 g, 92% | NC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C19H21N3O4
